US05095014
3-[2-Fluoro-5-(trifluoromethyl)phenoxy]-N-methyl-1-azetidine-carboxamide
A stirred solution of 4.5 g (0.015 mol) of 3-[2-fluoro-5-(trifluoromethyl)phenoxyl]-1-azetidinecarbonyl chloride in 20 mL of tetrahydrofuran was treated with 4.0 g (0.05 mol) of 40% aqueous monomethylamine. After stirring for 16 h the reaction mixture was diluted with 200 mL of water and the oil which separated slowly solidified. The solids were collected by filtration (3.9 g) and recrystallized from benzene/ligroin, yielding 3.5 g (79.8%) of white crystals, mp 93.5°-95° C.

reactant | 3-[2-fluoro-5-(trifluoromethyl)phenoxyl]-1-azetidinecarbonyl chloride | 0.015 mol, 4.5 g | FC1=C(OC2CN(C2)C(=O)Cl)C=C(C=C1)C(F)(F)F | C11H8ClF4NO2
reactant | monomethylamine | 0.05 mol, 4.0 g | CN | CH5N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 3-[2-Fluoro-5-(trifluoromethyl)phenoxy]-N-methyl-1-azetidine-carboxamide | 3.5 g, 79.8% | FC1=C(OC2CN(C2)C(=O)NC)C=C(C=C1)C(F)(F)F | C12H12F4N2O2
